US07745475B2
3-{(Phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid
Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(phenylmethyl)oxy]benzoate (3.0 g, 6.98 mmol) was dissolved in THF (50 mL) and water (10 mL) and lithium hydroxide monohydrate (586 mg, 13.95 mmol) added. The resultant mixture was heated with stirring at 45° C. for 2 hours, then at ambient temperature for 16 hours, and at 45° C. for a further 4 hours. Water (40 mL) was added and the solvent removed in vacuo. The resultant solution was acidified carefully with 1M citric acid (2 equivalents), washed with water and brine then dried (MgSO4), filtered and evaporated in vacuo to give the title compound as a colourless gum (2.58 g).

reactant | Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(phenylmethyl)oxy]benzoate | 6.98 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1)C | C24H34O5Si
reactant | water | 10 mL | O | H2O
reactant | lithium hydroxide monohydrate | 13.95 mmol, 586 mg | O.[OH-].[Li+]
reactant | Water | 40 mL | O | H2O
reactant | citric acid | 1M, 2 equivalents | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-{(Phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 2.58 g | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C23H32O5Si
